BUCK_NPC (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VPWM3 0 1 10M

.PROBE V(4,0) I(VAM1) V([VF1])

VS2         6 1 5
VS1         3 6 5
VPWM3       8 5 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM4       9 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM1       10 7 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM2       11 4 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VAM1        4 12 ; Current Arrow
R4          1 0 50M 
R3          2 3 50M 
D2          5 6  D_1N1183_1 
D1          6 7  D_1N1183_1 
MT5         4 8 5 5  ME_2N6755_N_1 NRD=0 NRS=0 
MT2         5 9 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
MT4         2 10 7 7  ME_2N6755_N_1 NRD=0 NRS=0 
MT3         7 11 4 4  ME_2N6755_N_1 NRD=0 NRS=0 
R2          VF1 0 10 
C1          VF1 0 10U 
R1          14 VF1 50M 
L1          12 14 1M IC=0 

.MODEL D_1N1183_1 D( IS=36N N=1.6 BV=50 RZ=10 IBV=5M 
+      RS=2M CJO=460P VJ=550M M=440M FC=500M 
+      TT=434.7N EG=1.11 XTI=3 KF=0 AF=1 
+      )
.MODEL ME_2N6755_N_1 NMOS( LEVEL=3 VTO=3.128 KP=21.14U PHI=600M GAMMA=0 TOX=100N 
+      UO=600 VMAX=0 DELTA=0 THETA=0 ETA=0 
+      L=2U W=1.1 RD=64.68M RS=120.7M RG=5.839 
+      RB=0 RDS=600K IS=44.14F N=1 PB=800M 
+      CBD=1.261N CBS=0 MJ=500M TT=370N CGSO=725.6P 
+      CGDO=310.6P CGBO=0 KF=0 AF=1 )

.END
